US07365069B2
N-(3,4-Dimethylphenyl)pyridine-3-carboximidamide
The title compound was prepared from 3-cyanopyridine (8.6 g, 83 mmol) and 3,4-dimetylaniline (10 g, 83 mmol) by following the procedure described in preparation 10 (15.6 g, yield 84%, mp 132-134 C, purity 99.7% by HPLC). 1H-NMR (CDCl3):δ 2.24-2.26 (d, 6H), 4.92 (bs, 2H, D2O exchangeable), 6.72-6.74 (d, 1H), 6.78 (s, 1H), 7.11-7.13 (d, 1H), 7.36-74 (m, 1H), 8.22-8.24 (d, 1H), 8.69-8.7 (d, 1H), 9.06 (d, 1H). IR (KBr) cm−1: 3313, 3142, 2997, 2958, 2918, 1651. MS m/z:226.1 (M+).

reactant | 3-cyanopyridine | 83 mmol, 8.6 g | C(#N)C=1C=NC=CC1 | C6H4N2
reactant | 3,4-dimetylaniline | 83 mmol, 10 g | CC=1C=C(N)C=CC1C | C8H11N
reactant | KBr | [K+].[Br-]
product | N-(3,4-Dimethylphenyl)pyridine-3-carboximidamide | yield 84% | CC=1C=C(C=CC1C)NC(=N)C=1C=NC=CC1 | C14H15N3
